US06465467B1
Step 1: 2-(1-Benzothien-3-yloxy)ethanol.
A mixture of 3-bromobenzothiophene (3.00 g, 14.1 mmol), KO-t-Bu (4.74 g, 42.2 mmol), copper (II) oxide (0.56 g, 7.0 mmol) and potassium iodide (2.34 g, 14.1 mmol) in ethylene glycol (10 mL) was stirred at 140° C. for 24 h. The reaction was quenched with water (100 mL) and filtered through a pad of Celite. The water phase was extracted with EtOAc (3×50 mL). The organic phase was treated with MgSO4 and silica, filtered through Celite and concentrated. The remaining oil was purified by column chromatography on silica using isohexane/EtOAc (6:4) as eluent. The product crystallized on standing to give 1.63 g (60%) of the title product: mp 55-56° C. Anal. (C10H10O2S) C, H.

reactant | 3-bromobenzothiophene | 14.1 mmol, 3.00 g | BrC1=CSC2=C1C=CC=C2 | C8H5BrS
reactant | KO-t-Bu | 42.2 mmol, 4.74 g | O([K])C(C)(C)C
reactant | potassium iodide | 14.1 mmol, 2.34 g | [I-].[K+]
reactant | ethylene glycol | 10 mL | C(CO)O | C2H6O2
catalyst | copper (II) oxide | 7.0 mmol, 0.56 g | [Cu]=O
product | 2-(1-Benzothien-3-yloxy)ethanol | 1.63 g, 60% | S1C=C(C2=C1C=CC=C2)OCCO | C10H10O2S
